US08304557B2
N-[3-({2-[(hydroxyacetyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)phenyl]-3-methylpyridine-2-carboxamide
To a solution of N-{3-[(2-aminoimidazo[1,2-a]pyridin-6-yl)oxy]phenyl}-3-methylpyridine-2-carboxamide (150 mg, 0.417 mmol) in N,N-dimethylacetamide (5 mL) was added 2-chloro-2-oxoethylacetate (45.0 μL, 0.419 mmol), and the mixture was stirred at room temperature for 2 hr. Methanol, tetrahydrofuran and aqueous sodium carbonate solution were added to the reaction mixture, and the mixture was stirred at 60° C. for 5 hr. The reaction mixture was concentrated under reduced pressure, diluted with aqueous sodium hydrogen carbonate solution and extracted with ethyl acetate. The organic layer was washed with aqueous sodium hydrogen carbonate solution and saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (NH silica gel, 0%→100% ethyl acetate-hexane→2% methanol-ethyl acetate) to give the title compound (70.1 mg, 40%) as a pale-yellow solid.

reactant | N-{3-[(2-aminoimidazo[1,2-a]pyridin-6-yl)oxy]phenyl}-3-methylpyridine-2-carboxamide | 0.417 mmol, 150 mg | NC=1N=C2N(C=C(C=C2)OC=2C=C(C=CC2)NC(=O)C2=NC=CC=C2C)C1 | C20H17N5O2
reactant | 2-chloro-2-oxoethylacetate | 0.419 mmol, 45.0 μL | ClC(C(=O)[O-])CC=O
reactant | Methanol | CO | CH4O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | N,N-dimethylacetamide | 5 mL | CN(C(C)=O)C | C4H9NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-[3-({2-[(hydroxyacetyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)phenyl]-3-methylpyridine-2-carboxamide | 70.1 mg, 40% | OCC(=O)NC=1N=C2N(C=C(C=C2)OC=2C=C(C=CC2)NC(=O)C2=NC=CC=C2C)C1 | C22H19N5O4
